US09029399B2
Preparation of 1-(4-cyclopropylpyridin-3-yl)-3-(2-(trifluoromethyl) pyrimidin-4-yl)imidazolidin-2-one (12A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 100 mg, 0.492 mmol) was reacted with 4-chloro-2-(trifluoromethyl)pyrimidine (108 mg, 0.591 mmol), 1,4-dioxane (5 mL), copper iodide (9.3 mg, 0.049 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (6.9 mg, 0.049 mmol) and potassium phosphate (313 mg, 1.47 mmol) to afford the crude product. Purification by column chromatography on silica gel (1% methanol in CHCl3), followed by preparative HPLC afforded 20 mg of the product (12% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.492 mmol, 100 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 4-chloro-2-(trifluoromethyl)pyrimidine | 0.591 mmol, 108 mg | ClC1=NC(=NC=C1)C(F)(F)F | C5H2ClF3N2
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.049 mmol, 6.9 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.47 mmol, 313 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.049 mmol, 9.3 mg | [Cu](I)I
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(4-cyclopropylpyridin-3-yl)-3-(2-(trifluoromethyl) pyrimidin-4-yl)imidazolidin-2-one | 20 mg, 12% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C1=NC(=NC=C1)C(F)(F)F)=O | C16H14F3N5O
